US03933972
A process for preparing sodium bichromate substantially free of vanadium and chlorine which comprises concentrating a sodium chromate liquor obtained from chrome-bearing minerals to form crystals of sodium chromate tetrahydrate, separating the tetrahydrate crystals from the liquor and recovering the crystals, treating the separated crystals with sulfuric acid to form the bichromate and recovering the sodium bichromate after separation of insoluble sodium sulfate formed.

reactant | sodium bichromate | [O-][Cr](=O)(=O)O[Cr](=O)(=O)[O-].[Na+].[Na+]
reactant | chlorine | ClCl | Cl2
catalyst | vanadium | [V] | V
product | sodium chromate tetrahydrate | O.O.O.O.[Cr](=O)(=O)([O-])[O-].[Na+].[Na+] | InChI=1S/Cr.2Na.4H2O.4O/h;;;4*1H2;;;;/q;2*+1;;;;;;;2*-1
